US08334292B1
Preparation of 4-((1-methylsulfonyl-piperidin-4-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine
Using the procedure of Example 1 Step 5, 4-((piperidin-4-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine was reacted with methanesulfonyl chloride to provide the title compound at 86% yield. 1H NMR (CDCl3, 400 MHz) 8.07 (s, 1H), 7.36 (d, 2H), 6.93 (d, 2 h), 5.20 (s, 1H), 4.23 (d, 2H), 4.07 (m, 1H), 3.89-3.83 (m, 6H), 3.21-3.18 (m, 4H), 2.76 (s, 3H), 2.67 (m, 2H), 1.90-1.24 (m, 14H), 0.94 (d, 3H); MS (ESI) m/z: Calc: 543.3 (M+). Found. 544.3 (M+1).

reactant | 4-((piperidin-4-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | N1CCC(CC1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C27H39N5O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 4-((1-methylsulfonyl-piperidin-4-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | 86% yield | CS(=O)(=O)N1CCC(CC1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C28H41N5O4S
